US06245773B1
To a flask of THF (200 mL) at −78° C. was added n-butyllithium (24.0 mL, 2.5 M), and the resulting mixture was stirred for 10 min. 3-bromopyridine (5.40 mL, 56.0 mmol) was added to this solution and the resulting mixture was stirred for 30 min. A solution of 1-carbethoxy-4-piperidone (7.24 mL, 48.0 mmol) in THF (20 mL) was cannula to the above anion slowly. The reaction mixture was stirred for 2 hours while warmed to room temperature gradually. Water (100 mL) was added and the mixture was concentrated. Extracted with EtOAc (3×100 mL), the organic extract was dried over Na2SO4, filtered and the solvent removed in vacuo. The residue was purified by column chromatography on silica gel with EtOAc and 5% MeOH in EtOAc to give 7.26 g of 1-carbethoxy-4-(3-pyridyl)-4-hydroxyl-piperidine.

reactant | n-butyllithium | 2.5 M, 24.0 mL | C(CCC)[Li]
reactant | 3-bromopyridine | 56.0 mmol, 5.40 mL | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1-carbethoxy-4-piperidone | 48.0 mmol, 7.24 mL | C(=O)(OCC)N1CCC(CC1)=O | C8H13NO3
reactant | Water | 100 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-carbethoxy-4-(3-pyridyl)-4-hydroxyl-piperidine | 7.26 g | C(=O)(OCC)N1CCC(CC1)(O)C=1C=NC=CC1 | C13H18N2O3
